US05723412
(1) Synthesis of an intermediate, 4-ethoxy-2-methylthio-6-[3-(trifluoromethyl)phenoxy]pyrimidine
Ethanol (1.18 g, 0.0256×1.0 mol) and NaH (1.02 g, (ca.60% in mineral oil), 0.0256×1.0 mol) were dissolved in THF and 4,6-dichloro-2-methylthiopyrimidine (Compound No. VII-23)(5.0 g, 0.0256 mol) was added thereto. The resulting solution was stirred for about 30 minutes at room temperature. To this reaction solution, m-trifluoromethyl-phenol (6.23 g, 0.0256×1.5 mol), NaH (1.54 g, (ca.60% in mineral oil), 0.0256×1.5 mol), and KI (2.12 g, 0.0256×0.5 mol) dissolved in DMF were added. The resulting solution was refluxed for about 7 hours. The reaction solution was partitioned between ethyl acetate and aqueous saturated sodium hydrogen carbonate to separate an organic phase. The organic phase was washed with aqueous saturated sodium chloride, dried over anhydrous sodium sulfate and concentrated, and thereafter purified on a silica gel column.

reactant | Ethanol | 1.0 mol, 1.18 g | C(C)O | C2H6O
reactant | NaH | 1.0 mol, 1.02 g | [H-].[Na+]
reactant | 4,6-dichloro-2-methylthiopyrimidine | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
reactant | m-trifluoromethyl-phenol | 1.5 mol, 6.23 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | NaH | 1.5 mol, 1.54 g | [H-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-ethoxy-2-methylthio-6-[3-(trifluoromethyl)phenoxy]pyrimidine | C(C)OC1=NC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)SC | C14H13F3N2O2S
